* C:\Users\matts\Documents\Custom SBC\Artificer A1\Artificer-A1-Single-Board-Computer\PCB\Simulations\PSU, voltage, polarity, and transient protection\Draft1.asc
V1 N003 0 5V
C1 N002 0 100nF IC=0
C2 N001 0 100nF IC=5
R1 N002 N001 1000k
C3 N002 0 200nF IC=0
.tran 1
.backanno
.end
